US05212187
N-[2-[[(2-guanidino-4-thiazolyl)methyl]thio]ethyl]-N'-[2-[N-[2-[N-(4-methoxybenzyl)-N-(2-pyridyl)amino]ethyl]-N-methylamino]ethyl]urea
Preparation is effected analogously to Example 63, using 0.53 g (1.7 mmol) of N-[2-[N-(4-methoxybenzyl)-N-(2-pyridyl)amino]ethyl]-N-methyl-1,2-ethanediamine and the equimolar amounts of 1,1'-carbonyldiimidazole and 2-[[(2-guanidino-4-thiazolyl)methyl]thio]ethaneamine as starting materials. Working up by chromatography analogously to Example 63 yields the purified title compound in the form of a viscous oil; MS (+FAB method): m/z (rel. int. [%])=572 ([M+H]+, 1), 121 (100); IR (KBr): 1644 cm-1 (C≡O). For further analysis, a portion of the compound is converted into the picric acid salt and recrystallised from ethanol; m.p.: 84° C. (ethanol).

reactant | N-[2-[N-(4-methoxybenzyl)-N-(2-pyridyl)amino]ethyl]-N-methyl-1,2-ethanediamine | 1.7 mmol, 0.53 g | COC1=CC=C(CN(C2=NC=CC=C2)CCN(CCN)C)C=C1 | C18H26N4O
reactant | 1,1'-carbonyldiimidazole | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 2-[[(2-guanidino-4-thiazolyl)methyl]thio]ethaneamine | N(C(=N)N)C=1SC=C(N1)CSCCN | C7H13N5S2
product | N-[2-[[(2-guanidino-4-thiazolyl)methyl]thio]ethyl]-N'-[2-[N-[2-[N-(4-methoxybenzyl)-N-(2-pyridyl)amino]ethyl]-N-methylamino]ethyl]urea | N(C(=N)N)C=1SC=C(N1)CSCCNC(=O)NCCN(C)CCN(C1=NC=CC=C1)CC1=CC=C(C=C1)OC | C26H37N9O2S2
